US07935699B2
1-(3-Methyl-but-2-enyl)-3-nitro-1H-pyrazole (1.29 g, 7.13 mmol) was dissolved in dioxane (30 mL). While stirring, a solution containing 50% concentrated sulfuric acid/water (3 mL) was added dropwise. The reaction was heated to 85° C. while stirring for 12 h. The reaction was diluted with water (50 mL) and the product extracted into ethyl acetate (3×60 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to an oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 15% ethyl acetate/hexanes to 100% ethyl acetate/hexanes) afforded 2-methyl-4-(3-nitro-pyrazol-1-yl)-butan-2-ol (608 mg, 43%) as a thick golden oil: H1-NMR (400 MHz, CDCl3) δ 1.30 (6H, s), 1.54 (1H, bs), 2.11-2.15 (2H, m), 4.36-4.39 (2H, m), 6.87 (1H, d, J=2.8 Hz), 7.48 (1H, d, J=2.8 Hz).

reactant | 1-(3-Methyl-but-2-enyl)-3-nitro-1H-pyrazole | 7.13 mmol, 1.29 g | CC(=CCN1N=C(C=C1)[N+](=O)[O-])C | C8H11N3O2
reactant | sulfuric acid water | 3 mL | S(O)(O)(=O)=O.O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 2-methyl-4-(3-nitro-pyrazol-1-yl)-butan-2-ol | 608 mg, 43% | CC(C)(CCN1N=C(C=C1)[N+](=O)[O-])O | C8H13N3O3
